US06492383B1
In a 125 mL round-bottomed flask 3-formylamino-thiophene-2-carboxylic acid methyl ester (5 g, 27.0 mmol), ammonium formate (5.11 9, 81.0 mmol), and formamide (6.40 mL, 162 mmol) were combined and heated at 140° C. After 10 hours the reaction mixture was cooled to room temperature and filtered. The crystalline solid was washed with water and dried in vacuo to afford 2.96 g (72%) of 3H-thieno[3,2-d]pyrimidin-4-one. 1H NMR (400 MHz, DMSO) d 8.10 (m, 2H), 7.34 (m, 1H). LC-MS: 153 (MH′); HPLC RT: 1.21 minutes.

reactant | 3-formylamino-thiophene-2-carboxylic acid methyl ester | 27.0 mmol, 5 g | COC(=O)C=1SC=CC1NC=O | C7H7NO3S
reactant | ammonium formate | 81.0 mmol | C(=O)[O-].[NH4+]
reactant | formamide | 162 mmol, 6.40 mL | C(=O)N | CH3NO
product | 3H-thieno[3,2-d]pyrimidin-4-one | 2.96 g, 72% | N1=CNC(C2=C1C=CS2)=O | C6H4N2OS
